US05928562
Preparation of 5-Octyloxy-2-[4-(3-(4-(nonafluorobutoxy)-2,2,3,3,4,4-hexafluorobutoxy)propyl)-2,3-difluorophenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-octyloxy-2-[4-hydroxy-2,3-difluorophenyl]pyrimidine (1.5 g, 4.7 mmol) with 3-(4-(nonafluorobutoxy)-2,2,3,3,4,4-hexafluorobutoxy)propyl bromide (2.45 g, 5.1 mmol, prepared from 1,3-dibromopropane and 4-(nonafluorobutoxy)-2,2,3,3,4,4-hexafluorobutanol). The reaction mixture was quenched with water, and the resulting crude product was further purified by recrystallization from ethanol, followed by Kugelrohr distillation (210° C. at 0.5 torr), to provide a yield of 2.6 g.

reactant | 5-octyloxy-2-[4-hydroxy-2,3-difluorophenyl]pyrimidine | 4.7 mmol, 1.5 g | C(CCCCCCC)OC=1C=NC(=NC1)C1=C(C(=C(C=C1)O)F)F | C18H22F2N2O2
reactant | 3-(4-(nonafluorobutoxy)-2,2,3,3,4,4-hexafluorobutoxy)propyl bromide | 5.1 mmol, 2.45 g | FC(C(C(OC(C(C(COCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C11H8BrF15O2
product | 5-Octyloxy-2-[4-(3-(4-(nonafluorobutoxy)-2,2,3,3,4,4-hexafluorobutoxy)propyl)-2,3-difluorophenyl]pyrimidine | C(CCCCCCC)OC=1C=NC(=NC1)C1=C(C(=C(C=C1)CCCOCC(C(C(F)(F)OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C29H29F17N2O3
